US06248754B1
A mixture of N-(8-chloro-1,2,3,4-tetrahydroisoquinolin-7-yl)-4-methoxy-3-trifluoromethylbenzamide (0.192 g) and 2-bromoethoxy-tert-butyldimethylsilane (0.24 g) were combined in dimethylformamide and warmed to 80° C. for 18 h. Solvent was removed at reduced pressure, the residue dissolved in dichloromethane and washed with saturated sodium hydrogen carbonate. The organic phase was dried (MgSO4) and solvent removed at reduced pressure. The residue was column chromatographed (silica gel, ammonia/methanol/dichloromethane mixtures as eluant) to give N-(2-(2-tert-butyldimethylsilyloxyethyl)-8-chloro-1,2,3,4-tetrahydroisoquinolin-7-yl)-4-methoxy-3-trifluoromethylbenzamide (0.09 g)

reactant | N-(8-chloro-1,2,3,4-tetrahydroisoquinolin-7-yl)-4-methoxy-3-trifluoromethylbenzamide | 0.192 g | ClC=1C(=CC=C2CCNCC12)NC(C1=CC(=C(C=C1)OC)C(F)(F)F)=O | C18H16ClF3N2O2
reactant | 2-bromoethoxy-tert-butyldimethylsilane | 0.24 g | BrCCO[Si](C)(C)C(C)(C)C | C8H19BrOSi
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | N-(2-(2-tert-butyldimethylsilyloxyethyl)-8-chloro-1,2,3,4-tetrahydroisoquinolin-7-yl)-4-methoxy-3-trifluoromethylbenzamide | 0.09 g | [Si](C)(C)(C(C)(C)C)OCCN1CC2=C(C(=CC=C2CC1)NC(C1=CC(=C(C=C1)OC)C(F)(F)F)=O)Cl | C26H34ClF3N2O3Si
